US06358960B1
Benzyl 2-(3-methoxymethoxycarbonylnaphthalen-2-yl)benzoate
Benzyl bromide (160 μl) and potassium carbonate (202 mg) were added to a solution of 2-(3-(methoxymethoxycarbonyl)naphthalen-2-yl)benzoic acid (410 mg) which was prepared by the same procedure as a series of reaction of Reference Example 4→Reference Example 5 using methoxymethyl 2-trifluoromethylsulfonyloxy-3-naphthalenecarboxylate, in dimethylformamid (5 ml). The mixture was stirred for 22 hours at room temperature. Water was added to the reaction mixture, and the solution was extracted with ethyl acetate. The extract was washed with water and a saturated aqueous solution of sodium chloride, successively, dried over anhydrous sodium sulfate and concentrated. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=8:2) to give the title compound (498 mg) having the following physical data.

reactant | Benzyl bromide | 160 μl | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 202 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(3-(methoxymethoxycarbonyl)naphthalen-2-yl)benzoic acid | 410 mg | COCOC(=O)C=1C(=CC2=CC=CC=C2C1)C1=C(C(=O)O)C=CC=C1 | C20H16O5
reactant | methoxymethyl 2-trifluoromethylsulfonyloxy-3-naphthalenecarboxylate | FC(S(=O)(=O)OC1=CC2=CC=CC=C2C=C1C(=O)OCOC)(F)F | C14H11F3O6S
solvent | dimethylformamid | 5 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | Benzyl 2-(3-methoxymethoxycarbonylnaphthalen-2-yl)benzoate | 498 mg | COCOC(=O)C=1C(=CC2=CC=CC=C2C1)C1=C(C(=O)OCC2=CC=CC=C2)C=CC=C1 | C27H22O5
